US04489089
N-[3-(1H-Imidazol-1-yl)propyl]-3-furanecarboxamide
A solution of 2.24 g. of furoic acid, 3.24 g. of N,N'-carbonyldiimidazole and 80 ml. of tetrahydrofuran was allowed to stir at room temperature for 2 hours. A 4.0 g. portion of 1H-imidazole-1-propanamine dihydrochloride was added and the mixture was stirred at room temperature overnight. The mixture was then heated for 5 hours, 5 ml. of water was added, heating resumed for 30 minutes and then the mixture was concentrated to remove most of the solvent. Dichloromethane and 60 ml. of 1N sodium hydroxide were added, the organic layer was separated, washed twice with water, dried and concentrated, giving 2.0 g. of the desired product, m.p. 127°-129° C.

reactant | furoic acid | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 1H-imidazole-1-propanamine dihydrochloride | Cl.Cl.N1(C=NC=C1)CCCN
solvent | water | O | H2O
product | N-[3-(1H-Imidazol-1-yl)propyl]-3-furanecarboxamide | N1(C=NC=C1)CCCNC(=O)C1=COC=C1 | C11H13N3O2
